US07279494B2
IV. (2E)-3-(4-{[(benzyloxy)carbonyl]amino}phenyl)prop-2-enyl diazoacetate
Glyoxylic acid chloride p-toluenesulfonylhydrazone (1.66 g, 6.35 mmol) was added to a suspension of benzyl 4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate (1.0 g, 3.53 mmol) in dichloromethane (25 mL). The mixture was cooled to 0° C. and treated with N,N-dimethylaniline (0.8 mL, 6.35 mmol). After 0.5 h, triethylamine (2.5 mL, 17.6 mmol) was added and the mixture stirred 2 h at 0° C. and warmed to room temperature. The reaction mixture was then concentrated and water was added. The mixture was extracted with two portions of diethyl ether and the combined organic solutions washed with saturated NaHCO3, brine and dried (MgSO4), filtered and concentrated. Purification by silica gel column chromatography (gradient 0-25% EtOAc-hexane) provided the title compound.

reactant | Glyoxylic acid chloride p-toluenesulfonylhydrazone | 6.35 mmol, 1.66 g | C1(=CC=C(C=C1)S(=O)(=O)NN=CC(=O)Cl)C | C9H9ClN2O3S
reactant | benzyl 4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | 3.53 mmol, 1.0 g | OC/C=C/C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C17H17NO3
reactant | N,N-dimethylaniline | 6.35 mmol, 0.8 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | triethylamine | 17.6 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (2E)-3-(4-{[(benzyloxy)carbonyl]amino}phenyl)prop-2-enyl diazoacetate | [N+](=[N-])=CC(=O)OC\C=C\C1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1 | C19H17N3O4
